US04474809
4-[(4-Methylphenyl)methoxy]-α-oxo-benzeneacetaldehyde hydrate
A 2.8 g. portion of α-hydroxy-β-oxo-4-[(4-methylphenyl)methoxy]-benzeneethanesulfonic acid, sodium salt was combined with 25 ml. of 0.5N hydrochloric acid, heated on a steam bath for 5 minutes and then allowed to stand for several hours. The solid was collected, slurried with 50 ml. of acetone, 25 ml. of 0.5N hydrochloric acid were added and the mixture was refluxed for 2 hours. The solid was collected, again refluxed with acid and the solid collected, washed free of acid and dried, giving the desired product as a white solid, m.p. 125°-130° C.

reactant | α-hydroxy-β-oxo-4-[(4-methylphenyl)methoxy]-benzeneethanesulfonic acid | OC(C(C1=CC=C(C=C1)OCC1=CC=C(C=C1)C)=O)S(=O)(=O)O | C16H16O6S
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | 0.5N | Cl | ClH
product | 4-[(4-Methylphenyl)methoxy]-α-oxo-benzeneacetaldehyde hydrate | O.CC1=CC=C(C=C1)COC1=CC=C(C=C1)C(C=O)=O | InChI=1S/C16H14O3.H2O/c1-12-2-4-13(5-3-12)11-19-15-8-6-14(7-9-15)16(18)10-17;/h2-10H,11H2,1H3;1H2
